US04950671
A mixture of 2-[(4-phenyl)benzyl]-2-propenyl chloride (4 g.), synthesized by method utilized in Example 1, and 3,5-dimethylpiperidine (3.7 g.) was heated at 120° C. for five hours. The mixture was cooled to room temperature and neutralized with 25% aqueous sodium hydroxide (15 ml.). The mixture was extracted with toluene, dried over sodium sulfate and evaporated to give an oil which partially solidified on standing. The product was triturated with petroleum ether, having a boiling point range of 30° C. to 60° C., and the insoluble material was removed by filtration. The filtrate was evaporated under reduced pressure to yield 1-[2-[(4-phenyl)benzyl]-2-propenyl]-3,5-dimethylpiperidine in a yield of 4.9 grams.

reactant | 2-[(4-phenyl)benzyl]-2-propenyl chloride | 4 g | C1(=CC=CC=C1)C1=CC=C(CC(CCl)=C)C=C1 | C16H15Cl
reactant | 3,5-dimethylpiperidine | 3.7 g | CC1CNCC(C1)C | C7H15N
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
product | 1-[2-[(4-phenyl)benzyl]-2-propenyl]-3,5-dimethylpiperidine | C1(=CC=CC=C1)C1=CC=C(CC(CN2CC(CC(C2)C)C)=C)C=C1 | C23H29N
